US09164384B2
Synthesis of bis(3,5-dimethylphenyl) sulfoxide (PAG Intermediate 34)
Under ice cooling, a mixture of 16 g thionyl chloride and 32 g THF was added dropwise to a Grignard reagent which had been prepared from 50 g of 1-bromo-3,5-dimethylbenzene. The reaction solution was aged for 30 minutes, after which under ice cooling, 130 g of 3 wt % hydrochloric acid was added dropwise to quench the reaction. The reaction solution was combined with 150 g of toluene. The organic layer was separated, washed with water and concentrated in vacuum. To the residue, hexane was added for crystallization. The resulting crystals were collected by filtration and dried in vacuum, obtaining 21 g of the target compound, bis(3,5-dimethylphenyl) sulfoxide as white crystals. Yield 60%.

reactant | thionyl chloride | 16 g | S(=O)(Cl)Cl | Cl2OS
reactant | THF | 32 g | C1CCOC1 | C4H8O
reactant | 1-bromo-3,5-dimethylbenzene | 50 g | BrC1=CC(=CC(=C1)C)C | C8H9Br
reactant | hydrochloric acid | Cl | ClH
reactant | toluene | 150 g | C1(=CC=CC=C1)C | C7H8
product | bis(3,5-dimethylphenyl) sulfoxide | 21 g, Yield 60% | CC=1C=C(C=C(C1)C)S(=O)C1=CC(=CC(=C1)C)C | C16H18OS
